US08975264B2
Step 2: Preparation of 3-(ethoxymethyl)-4-(4-methylphenyl)-1H-pyrazol-5-amine (Chemical Formula 89)
4-Ethoxy-2-(4-methylphenyl)-3-oxobutanenitrile (1.493 g) is dissolved in ethanol (50 mL). After adding hydrazine 2HCl (1.10 g), TEA (0.85 mL) and molecular sieve, the reaction mixture is heated to 80° C. After stirring for 15 hours and cooling to room temperature, the molecular sieve is removed by filtering. The reaction solvent is removed under reduced pressure. After the reaction is terminated by adding saturated aq. NaHCO3, the reaction mixture is extracted 3 times with ethyl acetate. The organic layer is washed with water and dehydrated with MgSO4. After concentration under reduced pressure, the produced solid is recrystallized to obtain the target compound (90%). 1H NMR (CDCl3, 300 MHz): δ 7.26 (m, 2H), 7.02 (m, 2H), 6.80 (br, 2H), 4.20 (s, 2H), 3.38 (m, 2H), 2.24 (s, 3H), 1.06 (t, 3H).

reactant | 4-Ethoxy-2-(4-methylphenyl)-3-oxobutanenitrile | 1.493 g | C(C)OCC(C(C#N)C1=CC=C(C=C1)C)=O | C13H15NO2
reactant | hydrazine 2HCl | 1.10 g | Cl.Cl.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(ethoxymethyl)-4-(4-methylphenyl)-1H-pyrazol-5-amine | 90% | C(C)OCC1=NNC(=C1C1=CC=C(C=C1)C)N | C13H17N3O
